US04215048
Lithium diisopropylamide (15 mM) is generated from n-butyl lithium and diisopropylamine in tetrahydrofuran (100 ml) in the usual manner. Ethyl acetate (1.3 g, 14.6 mM) is added to this reagent at -78° C. under nitrogen and the mixture is stirred for two hours. A solution of 1-chloro-2-methyl-6-methylene-2(E)-7-octadiene (2.5 g, 14.6 mM) in tetrahydrofuran (3 ml) is added dropwise during a ten minute period. The resultant mixture is stirred for two hours and then allowed to warm to 0° C., after which ice-water is added (50 ml). The aqueous phase is washed with brine (100 ml), water (2×100 ml) and then dried (Na2SO4). The solvent is removed in vacuo to give a crude product (2.9 g). This material is further purified by column chromatography on silica gel (50 g) with 10% ether in petroleum to give ethyl 4-methyl-8-methylene-(E)-4,9-decadienoate (2.1 g, 70%) as a colorless liquid.

reactant | Lithium diisopropylamide | 15 mM | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | Ethyl acetate | 14.6 mM, 1.3 g | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | ethyl 4-methyl-8-methylene-(E)-4,9-decadienoate | 2.1 g, 70% | C/C(/CCC(=O)OCC)=C\CCC(C=C)=C | C14H22O2
